US04888418
In acetonitrile was dissolved 3 g of 2,3,4-tri-O-acetyl-α-D-xylopyranosyl bromide, and 2.88 g of dry sodium azide was added to the solution. The mixture was stirred at 60° C. for 4 hours. Water was added to the reaction and the mixture was extracted with chloroform. The chloroform layer was washed with water, dehydrated and subjected to silica gel column chromatography with a solvent system of chloroform-acetone (100:1) to obtain 1.36 g of 2,3,4-tri-O-acetyl-1-azido-1-deoxy-β-D-xylopyranose.

reactant | 2,3,4-tri-O-acetyl-α-D-xylopyranosyl bromide | 3 g | C(C)(=O)O[C@H]1[C@H](OC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO7
reactant | sodium azide | 2.88 g | [N-]=[N+]=[N-].[Na+]
reactant | Water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2,3,4-tri-O-acetyl-1-azido-1-deoxy-β-D-xylopyranose | 1.36 g | C(C)(=O)O[C@H]1[C@@H](OC[C@H]([C@@H]1OC(C)=O)OC(C)=O)N=[N+]=[N-] | C11H15N3O7
